US06211245B1
2-[2-(4-Fluorophenyl)ethenyl]-5-fluorobenzonitrile
Sodium hydride (60% in mineral oil; 1.66 g [0.993 g NaH], 41.4 mmol, 1.10 equiv) was added to a solution of diethyl-2-cyano-4-fluorobenzyl phosphonate (10.2 g-equiv, 37.6 mmol, 1.0 equiv) in DMF (40 mL) over a period of 2 min. The reaction was stirred for 20 min at room temperature. 4-Fluorobenzaldehyde (4.67 g, 38 mmol, 1.0 equiv) was then added over a period of 2 min. After stirring for 18 h, H2O (200 mL) and satd. NaCl (50 mL) were added and the resulting mixture was extracted with EtOAc (2×100 mL). The combined organic layers were washed with 1N NaOH (1×100 mL) and H2O (2×100 mL), dried (anhyd. Na2SO4), and rotary evaporated (>100° C., heat gun). The crude, dark-red crystalline/oil (7.49 g, 82.7%) was chromatographed twice on silica gel (50×250 mm, dry pack), eluting first with hexane/EtOAc [4:1] and the second chromatography with [30:1] to provide a TLC-pure, yellow compound (2.1 g, 23.2%).

reactant | Sodium hydride | 41.4 mmol, 1.66 g, 1.10 equiv | [H-].[Na+]
reactant | diethyl-2-cyano-4-fluorobenzyl phosphonate | 37.6 mmol, 10.2 g, 1.0 equiv | P(OC(C1=C(C=C(C=C1)F)C#N)(CC)CC)([O-])=O
reactant | 4-Fluorobenzaldehyde | 38 mmol, 4.67 g, 1.0 equiv | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | NaCl | 50 mL | [Na+].[Cl-]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | H2O | 200 mL | O | H2O
product | 2-[2-(4-Fluorophenyl)ethenyl]-5-fluorobenzonitrile | 2.1 g, 23.2% | FC1=CC=C(C=C1)C=CC1=C(C#N)C=C(C=C1)F | C15H9F2N
